US05668147
Reference Example 4 wherein Z is the same as the above. a) Trans-1-benzyloxycarbonyl-3-aminomethyl-4-trifluoromethylpyrrolidine
In 150 ml of methanol, is dissolved 9.33 g (21.6 mmol) of trans-1-benzyloxycarbonyl-3-phthalimidomethyl-4-trifluoromethylpyrrolidine. To the above solution, is added 2.1 ml (43.2 mmol) of hydrazine monohydrate, and the mixture is stirred at room temperature for 12 hours. The resulting precipitate is removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is dissolved in dichloromethane and washed with water. The washed solution is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (elusion solvent; chloroform/methanol (100/2→100/5)) to give 5.89 g of the objective substance as a yellow oily matter (yield 90.3%).

reactant | trans-1-benzyloxycarbonyl-3-phthalimidomethyl-4-trifluoromethylpyrrolidine | 21.6 mmol, 9.33 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C(F)(F)F)CN1C(C=2C(C1=O)=CC=CC2)=O | C22H19F3N2O4
reactant | hydrazine monohydrate | 43.2 mmol, 2.1 ml | O.NN
solvent | methanol | 150 ml | CO | CH4O
product | Trans-1-benzyloxycarbonyl-3-aminomethyl-4-trifluoromethylpyrrolidine | yield 90.3% | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C(F)(F)F)CN | C14H17F3N2O2
